US06610880B1
To a well-stirred reaction vessel equipped with a thermometer and a pH-electrode were added 39 g of water and 0.20 g of Arquad CB50 at 5° C. After the addition of 0.05 mole of 3-chlorobenzoic acid the pH was adjusted to 6 using a 10 wt % aqueous NaOH solution. Then, 0.05 mole of sec-butyl chloroformate was dosed within 5 min at 5° C. During this time and a post-reaction time of 165 min at 5° C. the pH was kept at a value between 6 and 9. After the post-reaction, 8.1 g of TBHP were added (0.063 mole), and using a 33 wt % aqueous NaOH solution the pH was adjusted to 13 within 5 min while keeping the temperature at 5° C. During a post-reaction time of 75 min at 5° C. the pH was maintained at 13. Then, 25 g of diethyl ether were added, and the reaction mixture was allowed to separate. After separation of the water layer, the organic layer was washed, twice with 40 g of a 15 wt % aqueous NaCl solution. The ether layer was dried over MgSO4, and the diethyl ether was removed under vacuum. As a result, 9.4 g of tert-butylperoxy 3-chlorobenzoate having a content of 95.4% were obtained in a yield of 80% based on 3-chlorobenzoic acid. The molar ratio of tert-butylperoxy 3-chlorobenzoate to tert-butylperoxy 1-methyl-1-propylcarbonate was calculated to be 97.6:2.4.

reactant | 3-chlorobenzoic acid | 0.05 mole | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | NaOH | [OH-].[Na+]
reactant | sec-butyl chloroformate | 0.05 mole | ClC(=O)OC(C)CC | C5H9ClO2
reactant | TBHP | 8.1 g | CC(C)(C)OO | C4H10O2
solvent | diethyl ether | 25 g | C(C)OCC | C4H10O
solvent | water | 39 g | O | H2O
product | tert-butylperoxy 3-chlorobenzoate | 9.4 g, yield of 80% | ClC=1C=C(C(=O)OOOC(C)(C)C)C=CC1 | C11H13ClO4
